US08431603B2
(16b) (4-{[tert-Butyl(dimethyl)silyl]oxy}-2,6-dimethoxyphenyl)boronic acid
To a mixture of tert-butyl(3,5-dimethoxyphenoxy)dimethylsilane (4.97 g, 18.5 mmol) and THF (50.0 mL) were added N,N,N′,N′-tetramethylethylenediamine (3.35 mL, 22.2 mmol) and n-butyllithium (2.77 M solution in n-hexane: 8.01 mL, 22.2 mmol) in that order at room temperature, and the mixture was stirred for 1 hour at room temperature. The mixture was then cooled to −78° C. (internal temperature), and then trimethyl borate (2.48 mL, 22.2 mmol) was added and the temperature was raised to room temperature while stirring. A saturated aqueous solution of ammonium chloride was added to the reaction mixture and then ethyl acetate was added, while cooling on ice. After thoroughly shaking the mixture, the organic layer was separated and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was filtered, and then the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (mixture of n-heptane and ethyl acetate: n-heptane/ethyl acetate=4/1) to obtain the title compound (3.50 g, 11.2 mmol).

reactant | tert-butyl(3,5-dimethoxyphenoxy)dimethylsilane | 18.5 mmol, 4.97 g | C(C)(C)(C)[Si](C)(C)OC1=CC(=CC(=C1)OC)OC | C14H24O3Si
reactant | N,N,N′,N′-tetramethylethylenediamine | 22.2 mmol, 3.35 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 22.2 mmol, 2.77 M, 8.01 mL | C(CCC)[Li]
reactant | trimethyl borate | 22.2 mmol, 2.48 mL | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
product | (4-{[tert-Butyl(dimethyl)silyl]oxy}-2,6-dimethoxyphenyl)boronic acid | 11.2 mmol, 3.50 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C(=C1)OC)B(O)O)OC | C14H25BO5Si
